US07501410B2
2-Isopropyl-7-methanesulfonylmethyl-4-(5-methyl-1H-pyrazol-3-yl-amino)-2H-phthalazin-1-one
Oxone (0.43 g, 0.7 mmol) was added in one portion to a stirred solution of 2-isopropyl-4-(5-methyl-1H-pyrazol-3-ylamino)-7-methylsulfanylmethyl-2H-phthalazin-1-one (0.06 g, 0.17 mmol) in a 4:1 mixture of dioxane/water (1.2 ml) and the reaction mixture was stirred at RT for 1 hour. The reaction mixture was diluted with water (5 ml) and the solution was extracted with EtOAc (3×75 ml), the organic layers were combined, dried (MgSO4), filtered and concentrated under vacuum to give the title compound (0.013 g, 20% yield) as a white solid. δH (400 MHz, DMSO) 9.23 (1H, s), 8.48 (1H, d), 8.38 (1H, d), 7.89 (1H, dd), 6.36 (1H, s), 5.33-5.20 (1H, m), 4.77 (2H, s), 2.96 (3H, s), 2.25 (3H, s), 1.33 (6H, d) Tr=1.58 min, m/z (ES+) (M+H)+ 376.24.

reactant | Oxone | 0.7 mmol, 0.43 g | OOS(=O)[O-].[K+]
reactant | 2-isopropyl-4-(5-methyl-1H-pyrazol-3-ylamino)-7-methylsulfanylmethyl-2H-phthalazin-1-one | 0.17 mmol, 0.06 g | C(C)(C)N1C(C2=CC(=CC=C2C(=N1)NC1=NNC(=C1)C)CSC)=O | C17H21N5OS
reactant | dioxane water | 1.2 ml | O1CCOCC1.O
solvent | water | 5 ml | O | H2O
product | 2-Isopropyl-7-methanesulfonylmethyl-4-(5-methyl-1H-pyrazol-3-yl-amino)-2H-phthalazin-1-one | 0.013 g, 20% yield | C(C)(C)N1C(C2=CC(=CC=C2C(=N1)NC1=NNC(=C1)C)CS(=O)(=O)C)=O | C17H21N5O3S
